US04474968
(αS,5S)-Chloro-4,5-dihydro-α-phthalimido-5isoxazole acetic acid, benzhydryl ester
To 192 μl (2 mmole) of carbon tetrachloride in 25 ml of dry tetrahydrofuran under N2 at room temperature is added 310 μl (1.9 mmole) of hexamethylphosphorous triamide dropwise over one minute. Within two minutes 590 mg. (1.3 mmole) of (αS,5S)-oxo-α-phthalimido-5-isoxazolidine acetic acid, benzhydryl ester acid in approximately 5 ml of dry THF is added rapidly. The heterogeneous solution in stirred at 45° for 48 hours. Alternatively, to 590 mg. (1.3 mmole) of (αS,5S)-oxo-α-phthalimido-5-isoxolidine in 20 ml. of dry tetrahydrofuran under N2 at room temperature is added 610 mg. (2.6 mmole) of hexamethylphosphorous triamide dichloride (prepared by hexachloroethane in acetonitrile with hexamethylphosphorous triamide according to R. Appel and H. Scholer, Chem. Ber., 110, 2382 (1977)). The solution is refluxed for 48 hours. The reaction is taken up in 150 ml of ethyl acetate and washed with 50 ml of 0.1N hydrochloric acid followed by brine and then dried over sodium sulfate. After concentrating in vacuo the residue is chromatographed on 50 g of silica gel with 30% ethyl acetate hexane (200 ml elution) which yields 200 mg of crude product (33% yield), 245 mg of starting material (42%). The crude product yielded (α5,5S) 3-chloro-4,5-dihydro-α-phthalimido-5-isoxazole acetic acid as needles, m.p. 178°-9° upon recrystallization from methanol.

reactant | carbon tetrachloride | 2 mmole, 192 μl | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | hexamethylphosphorous triamide | 1.9 mmole, 310 μl | CN(P(N(C)C)N(C)C)C | C6H18N3P
reactant | (αS,5S)-oxo-α-phthalimido-5-isoxazolidine acetic acid, benzhydryl ester | 1.3 mmole | O=C1NO[C@@H](C1)[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C26H20N2O6
reactant | hexamethylphosphorous triamide dichloride | 2.6 mmole | [Cl-].[Cl-].CN(P(N(C)C)N(C)C)C
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | THF | approximately 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | (αS,5S)-Chloro-4,5-dihydro-α-phthalimido-5isoxazole acetic acid, benzhydryl ester | 245 mg, 42% | ClC1=NO[C@@H](C1)[C@@H](C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)N1C(C=2C(C1=O)=CC=CC2)=O | C26H19ClN2O5
